US07642264B2
2-Chloro-4-(4-fluoro-phenyl)-6-trifluoromethyl-pyrimidine
The title compound was prepared from 4-(4-fluoro-phenyl)-6-trifluoromethyl-1H-pyrimidin-2-one (15.5 g, 0.06 mol) and phosphoroxychloride (155 mL) according to the general procedure I. Obtained as a light yellow solid (16.5 g, 99%). MS (EI) 276.1 [(M)+]; mp 67° C.

reactant | 4-(4-fluoro-phenyl)-6-trifluoromethyl-1H-pyrimidin-2-one | 0.06 mol, 15.5 g | FC1=CC=C(C=C1)C1=NC(NC(=C1)C(F)(F)F)=O | C11H6F4N2O
reactant | phosphoroxychloride | 155 mL | O=P(Cl)(Cl)Cl | Cl3OP
product | 2-Chloro-4-(4-fluoro-phenyl)-6-trifluoromethyl-pyrimidine | ClC1=NC(=CC(=N1)C1=CC=C(C=C1)F)C(F)(F)F | C11H5ClF4N2
